US07834002B2
To a suspension of 420 mg of LiAlH4 in 20 mL of THF, the solution of 1.9 g of 3-[6-(t-butyldimethylsilanyl-oxymethyl)pyridin-2-yl]-1-morpholin-4-ylpropan-1-one in 30 mL of THF was added dropwise at ice temperature. After the reaction mixture was stirred at room temperature for 3 hours, the excess LiAlH4 was quenched with water, and the solution was filtrated through Hyflo Super-Cel (Nacalai Tesque) and partitioned. The organic layer was washed with brine, and dried over anhydrous magnesium sulfate. After removing the solvent under reduced pressure, the residue was purified by chromatography on silica gel (methylene chloride-ethanol 40:1) to give 760 mg of 4-{3-[6-(t-butyldimethylsilanyloxymethyl)pyridin-2-yl]propyl}morpholine.

reactant | LiAlH4 | 420 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3-[6-(t-butyldimethylsilanyl-oxymethyl)pyridin-2-yl]-1-morpholin-4-ylpropan-1-one | 1.9 g | [Si](C)(C)(C(C)(C)C)OCC1=CC=CC(=N1)CCC(=O)N1CCOCC1 | C19H32N2O3Si
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 4-{3-[6-(t-butyldimethylsilanyloxymethyl)pyridin-2-yl]propyl}morpholine | 760 mg | [Si](C)(C)(C(C)(C)C)OCC1=CC=CC(=N1)CCCN1CCOCC1 | C19H34N2O2Si
